US04124603
A mixture of 54.7 g of 6-cyano-3-phenylbenzofuran, 200 ml of acetic acid and 100 ml of hydrochloric acid is heated to its reflux temperature and maintained at reflux for about 20 hours. An additional 100 ml of hydrochloric acid is added and the mixture is refluxed further for about 27 hours. The reaction mixture is then added to water and the aqueous solution is extracted with diethyl ether. The ether layer is extracted with dilute sodium hydroxide solution. The basic aqueous solution is acidified with 6N hydrochloric acid and the solid precipitate is collected by filtration. The solid is recrystallized from aqueous ethanol to provide 3-phenyl-6-benzofurancarboxylic acid, m.p. 160°-170° C.

reactant | 6-cyano-3-phenylbenzofuran | 54.7 g | C(#N)C1=CC2=C(C(=CO2)C2=CC=CC=C2)C=C1 | C15H9NO
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | O | H2O
product | 3-phenyl-6-benzofurancarboxylic acid | C1(=CC=CC=C1)C1=COC2=C1C=CC(=C2)C(=O)O | C15H10O3
